US08198285B2
3-(4-bromophenyl)-N-(3-methoxypropyl)propan-1-amine (500 g) in water (1.5 L) and THF (500 ml) was charged into reactor Triethylamine (176.8 g) was charged into reactor at 10° C. Boc2O (475.5 g) was added dropwise to the mixture in reactor 1 at 10° C. and the mixture was stirred for 1 h at 10° C. The mixture was analysed for reaction completion. The mixture was extracted with MTBE (3×1 L). The combined organic layers were evaporated to down to give crude product as oil. The crude product was further purified by silica gel column chromatography. (Petroleum ether:Ethyl acetate=1:0-20:1-10:1). tert-butyl [3-(4-bromophenyl)propyl](3-methoxypropyl)carbamate was obtained as slightly yellow oil. (327.0 g)

reactant | 3-(4-bromophenyl)-N-(3-methoxypropyl)propan-1-amine | 500 g | BrC1=CC=C(C=C1)CCCNCCCOC | C13H20BrNO
reactant | Triethylamine | 176.8 g | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 475.5 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 1.5 L | O | H2O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | tert-butyl [3-(4-bromophenyl)propyl](3-methoxypropyl)carbamate | BrC1=CC=C(C=C1)CCCN(C(OC(C)(C)C)=O)CCCOC | C18H28BrNO3
